US04760192
Allyloxyamine hydrochloride (0.72 g) and then a solution of sodium hydroxide (0.25 g) in water (3 ml) were added to a stirred mixture of 2-butyryl-3-hydroxy-5-mesitylcyclohex-2-en-1-one (1.78 g; 5.9 mmole) and 95% ethanol. The progress of the reaction was monitored using thin layer chromatography on silica gel (eluant dichloromethane). On completion of the reaction the ethanol was removed by evaporation using a rotary evaporator and the residue was extracted with dichloromethane. The organic extract was washed with aqueous 5% hydrochloric acid and then with water and dried over anhydrous magnesium sulfate. The solvent was removed by evaporation under reduced pressure using a rotary evaporator to give the product, 2-[1-(allyloxyimino)butyl]-3-hydroxy-5-mesitylcyclohex-2-en-1-one (1.6 g) as an oil.

reactant | Allyloxyamine hydrochloride | 0.72 g | Cl.C(C=C)ON
reactant | sodium hydroxide | 0.25 g | [OH-].[Na+]
reactant | 2-butyryl-3-hydroxy-5-mesitylcyclohex-2-en-1-one | 5.9 mmole, 1.78 g | C(CCC)(=O)C=1C(CC(CC1O)C1=C(C=C(C=C1C)C)C)=O | C19H24O3
reactant | ethanol | C(C)O | C2H6O
solvent | water | 3 ml | O | H2O
product | 2-[1-(allyloxyimino)butyl]-3-hydroxy-5-mesitylcyclohex-2-en-1-one | 1.6 g | C(C=C)ON=C(CCC)C=1C(CC(CC1O)C1=C(C=C(C=C1C)C)C)=O | C22H29NO3
